US07601722B2
In an analogous manner as described in general procedure IV, 1-(2-fluorophenyl)-1,3-dihydro-2,1,3-benzothiadiazole 2,2-dioxide (0.22 g, 0.83 mmol) was treated with cesium carbonate (0.27 g, 0.83 mmol) and 1-Bromo-2-(2-bromo-ethoxy)-ethane (0.03 mL, 3.3 mmol) to provide 0.23 g (67%) of 1-[2-(2-bromoethoxy)ethyl]-3-(2-fluorophenyl)-1,3-dihydro-2,1,3-benzothiadiazole 2,2-dioxide. HRMS: calculated for C16H16BrFN2O3S+H+, 415.01218; found (ESI, [M+H]+), 415.0127; HPLC purity 100.0% at 210-370 nm, 10.1 minutes; Xterra RP18, 3.5 u, 150×4.6 mm column, 1.2 mL/minutes 85/15-5/95 (Ammonium formate buffer pH=3.5/ACN+MeOH) for 10 minutes hold 4 minutes.

reactant | 1-(2-fluorophenyl)-1,3-dihydro-2,1,3-benzothiadiazole 2,2-dioxide | 0.83 mmol, 0.22 g | FC1=C(C=CC=C1)N1S(NC2=C1C=CC=C2)(=O)=O | C12H9FN2O2S
reactant | cesium carbonate | 0.83 mmol, 0.27 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 1-Bromo-2-(2-bromo-ethoxy)-ethane | 3.3 mmol, 0.03 mL | BrCCOCCBr | C4H8Br2O
product | 1-[2-(2-bromoethoxy)ethyl]-3-(2-fluorophenyl)-1,3-dihydro-2,1,3-benzothiadiazole 2,2-dioxide | 0.23 g, 67% | BrCCOCCN1S(N(C2=C1C=CC=C2)C2=C(C=CC=C2)F)(=O)=O | C16H16BrFN2O3S
